### PR TITLE
chore: add failing grind tests

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds a failing test involving the `grind` tactic, where `induction ... grind` works but `fun_induction ... grind` doesn't.

### CODE REVIEW

File: tests/lean/grind/fun_induction_fail.lean [hunk 1]
```diff
@@ -0,0 +1,333 @@
...
+    [thm] cexec.cexec_while_done ↦ 2
+    [thm] cexec.cexec_assign ↦ 1
+-/
+#guard_msgs in
+theorem issue4 : ∀ fuel s c s',
+    cexec_bounded fuel s c = .some s'
+  → cexec s c s' := by
+  intros
+  fun_induction cexec_bounded
+  all_goals grind
```
Comment (kim-em) [inline tests/lean/grind/fun_induction_fail.lean:333]: @wkrozowski, could you try to work out how to get to a contradiction from the state `grind` reached here? I think this example is too big to do much with otherwise.
